US07285604B2
Method of Synthesizing Dendrimer Having Cinnamic Acid Amide Residue in Terminal
Into a dichloromethane solution of a poly(propyleneimine)dendrimer (1.0 g, 3.2 mmol, made by Aldrich Corporation) of the first generation (n=1 in FIG. 8) containing a catalytic quantity of triethylamine, a solution of trans-cinnamyl chloride (0.63 g, 3.7 mmol, made by Aldrich Corporation) was dropped, and the resultant solution was stirred at 0° C. for one hour and then at room temperature for 40 hours. This reaction liquid was diluted with dichloromethane, was cleaned sequentially with ion-exchange water, an aqueous solution of sodium carbonate and an aqueous solution of sodium chloride, and was dried with magnesium sulfate. After filtration, dichloromethane was removed by an evaporator. The crude product was dialyzed and reprecipitated repetitively for three times, and was dried under a reduced pressure. Then, a white solid was obtained.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | trans-cinnamyl chloride | 3.7 mmol, 0.63 g | C(\C=C\C1=CC=CC=C1)Cl | C9H9Cl
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | Cinnamic Acid Amide | C(C=CC1=CC=CC=C1)(=O)N | C9H9NO
